US04743692
N-[4-(5-bromo-3-methyl-2-pyridinyl)butyl]thieno[2,3-d]isothiazol-3-amine 1,1-dioxide
A mixture of 0.514 g (0.0021 mole) of 4-(5-bromo-3-methyl-2-pyridinyl)butylamine and 0.463 g (0.0021 mole) of 3-(methylthio)thieno[2,3-d]isothiazole 1,1-dioxide in 35 ml of ethanol was heated under reflux with stirring for 4 hours. The reaction solution was cooled in ice giving a crystalline product which amounted to 0.71 g, m.p. 191°-193° C.

reactant | 4-(5-bromo-3-methyl-2-pyridinyl)butylamine | 0.0021 mole, 0.514 g | BrC=1C=C(C(=NC1)CCCCN)C | C10H15BrN2
reactant | 3-(methylthio)thieno[2,3-d]isothiazole 1,1-dioxide | 0.0021 mole, 0.463 g | CSC1=NS(C2=C1SC=C2)(=O)=O | C6H5NO2S3
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | N-[4-(5-bromo-3-methyl-2-pyridinyl)butyl]thieno[2,3-d]isothiazol-3-amine 1,1-dioxide | BrC=1C=C(C(=NC1)CCCCNC1=NS(C2=C1SC=C2)(=O)=O)C | C15H16BrN3O2S2
